### PR TITLE
Acyclic types are inhabited

### PR DESCRIPTION
**Pull request by djspacewhale**
What's advertised on the tin. As bonus lemmas, we show that `X` is inhabited iff `Σ X` is 0-connected, and is propositionally decidable iff `trunc-Set (Σ X)` is finite.

### CODE REVIEW

File: src/foundation/connected-types.lagda.md [hunk 1]
```diff
@@ -271,3 +271,18 @@ module _
                 ( λ where refl → refl)
                 ( center (K a x)))))
 ```
+
+In particular, inhabited types are `-1`-connected; their identity types are
+`-2`-connected, as all types are. This characterizes the `-1`-connected types,
+i.e. `X` is `-1`-connected iff it's inhabited.
```
Comment (fredrik-bakke) [inline src/foundation/connected-types.lagda.md]:
```suggestion
i.e., `X` is `-1`-connected iff it's inhabited.
```

File: src/foundation/surjective-maps.lagda.md [hunk 2]
```diff
@@ -873,6 +874,18 @@ module _
     is-inhabited-is-surjective (is-surjective-map-surjection f)
 ```
 
+### When `X` is empty and `X` surjects onto `Y`, then `Y` is empty
```
Comment (fredrik-bakke) [inline src/foundation/surjective-maps.lagda.md]:
```suggestion
### Empty types are closed under surjections
```

File: src/synthetic-homotopy-theory/acyclic-types.lagda.md [hunk 3]
```diff
@@ -80,7 +83,16 @@ is-acyclic-unit = is-acyclic-is-contr unit is-contr-unit
 
 ### Acyclic types are inhabited
 
-> TODO
+Proof: `Σ X` is 0-connected if and only if `X` is inhabited, and contractible
+types are of course 0-connected.
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/acyclic-types.lagda.md]:
```suggestion
**Proof.** `Σ X` is 0-connected if and only if `X` is inhabited, and contractible
types are of course 0-connected. ∎
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:1]: Some of your additions to this file may have been formalized in `suspensions-of-propositions`. Have you cross-referenced that the formalizations don't overlap?

File: src/synthetic-homotopy-theory/acyclic-types.lagda.md [hunk 4]
```diff
@@ -80,7 +83,16 @@ is-acyclic-unit = is-acyclic-is-contr unit is-contr-unit
...
+
+```agda
+is-inhabited-is-acyclic : {l : Level} (A : UU l) → is-acyclic A → is-inhabited A
+is-inhabited-is-acyclic A ac =
+  is-inhabited-suspension-is-0-connected
+    ( A)
+    ( is-0-connected-is-contr (suspension A) ac)
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/acyclic-types.lagda.md:94]: Nice! As a corollary, acyclic maps and epimorphisms are surjective.   You should add those too :)

Comment (djspacewhale) [reply src/synthetic-homotopy-theory/acyclic-types.lagda.md:94]: Oh I thought that'd have been in here already! Will certainly add :)

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md
Comment (djspacewhale) [reply src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:1]: I haven't checked that file but am now.

1. Does `suspension` commute with `trunc` up to truncation level, i.e., do we have `suspension (trunc-Prop X) == trunc-Set (suspension X)`? That would give me access to all of that machinery pretty readily and reduce the issue to suspensions of decidable propositions.

2. I think there could be several overlaps going on - it looks like `is-kuratowski-finite-Set` is just a set-version of `is-finitely-enumerable`, for example...

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:1]: > 1. Does `suspension` commute with `trunc` up to truncation level, i.e., do we have `suspension (trunc-Prop X) == trunc-Set (suspension X)`? That would give me access to all of that machinery pretty readily and reduce the issue to suspensions of decidable propositions.

You at least have `suspension (trunc-Prop X) = trunc-Set (suspension (trunc-Prop X))`  since the suspension of a proposition is a set. I'd imagine you could prove the stronger condition you ask for, but it's not formalized.

> 2. I think there could be several overlaps going on - it looks like `is-kuratowski-finite-Set` is just a set-version of `is-finitely-enumerable`, for example...

Indeed! Though you can show the suspension of _any_ type is finitely enumerable. They need not be sets.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 5]
```diff
@@ -644,3 +765,112 @@ module _
...
+        ( is-empty-set-truncation-is-empty
+          ( is-empty-is-zero-number-of-elements-is-finite p {! refl  !})))
+  ... | 1 =
+    inl
+      ( is-inhabited-suspension-is-0-connected
+        ( X)
+        ( is-contr-is-one-number-of-elements-is-finite p {! refl  !}))
+  ... | 2 = inr (is-empty-trunc-suspension-has-two-elements {!   !})
+  ... | succ-ℕ (succ-ℕ (succ-ℕ n)) = ex-falso {!   !}
+```
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:886]: To make `suspensions-of-propositions` more discoverable for the next person, let's add a "see also" section


````suggestion
```

## See also

- [Suspensions of propositions](synthetic-homotopy-theory.suspensions-of-propositions.md)
````

File: src/univalent-combinatorics/finitely-enumerable-types.lagda.md [hunk 6]
```diff
@@ -116,6 +125,34 @@ is-finite-is-finitely-enumerable-discrete D eX =
...
+by `n`.
+
+```agda
+is-upper-bound-finite-enumeration :
+  {l : Level} (X : UU l) →
+  (eq : has-decidable-equality X) →
+  (f : finite-enumeration X) →
+  ¬ le-ℕ
+    (cardinality-finite-enumeration X f)
+    (number-of-elements-count (count-finite-enumeration-discrete eq f))
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/finitely-enumerable-types.lagda.md]: since inequality of natural numbers is decidable and all that, I'm fairly certain this imples


```suggestion
  leq-ℕ
    (number-of-elements-count (count-finite-enumeration-discrete eq f))
    (cardinality-finite-enumeration X f)
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md
Comment (djspacewhale) [reply src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:1]: > You at least have `suspension (trunc-Prop X) = trunc-Set (suspension (trunc-Prop X))` since the suspension of a proposition is a set. I'd imagine you could prove the stronger condition you ask for, but it's not formalized.

That could be an interesting theorem then - I'll add it to the queue, hah.

> Indeed! Though you can show the suspension of _any_ type is finitely enumerable. They need not be sets.

Good point! I did add the finite enumeration of `Σ X` as well but can draw some more attention to it.

File: src/univalent-combinatorics/finitely-enumerable-types.lagda.md (hunk 6 above)
Comment (djspacewhale) [reply src/univalent-combinatorics/finitely-enumerable-types.lagda.md]: I had it that way earlier but was running into issues proving it. I'm also running into issues proving this form though, so can change it back since it's more elegant

File: src/foundation/surjective-maps.lagda.md [hunk 7]
```diff
@@ -873,6 +874,18 @@ module _
...
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2} (emp-A : is-empty A)
+  where
+
+  is-empty-surjection-empty : A ↠ B → is-empty B
+  is-empty-surjection-empty (f , p) b =
```
Comment (fredrik-bakke) [inline src/foundation/surjective-maps.lagda.md]:
```suggestion
  is-empty-surjection : A ↠ B → is-empty B
  is-empty-surjection (f , p) b =
```

File: src/foundation/sections.lagda.md [hunk 8]
```diff
@@ -187,4 +188,48 @@ is-injective-map-section-family :
...
+  pr2 (dependent-fiber-section g) b = pr2 (g b)
+
+  equiv-section-dependent-fiber :
+    section f ≃ ((b : B) → fiber f b)
+  pr1 equiv-section-dependent-fiber = section-dependent-fiber
+  pr1 (pr1 (pr2 equiv-section-dependent-fiber)) = dependent-fiber-section
+  pr2 (pr1 (pr2 equiv-section-dependent-fiber)) = refl-htpy
+  pr1 (pr2 (pr2 equiv-section-dependent-fiber)) = dependent-fiber-section
+  pr2 (pr2 (pr2 equiv-section-dependent-fiber)) = refl-htpy
+```
```
Comment (fredrik-bakke) [inline src/foundation/sections.lagda.md:221]: Sorry, this is already formalized in `foundation.split-surjective-maps`:

- https://unimath.github.io/agda-unimath/foundation.split-surjective-maps.html#split-surjections-are-equivalent-to-maps-equipped-with-a-section

Maybe you could add a link to that file in a `## See also` section? See how this section is formatted elsewhere for inspiration.

File: src/synthetic-homotopy-theory/suspensions-of-propositions.lagda.md [hunk 9]
```diff
@@ -487,6 +492,209 @@ module _
         ( surjection-equiv equiv-bool-Fin-2))
 ```
 
+### Suspensions _almost_ commute with propositional truncations
+
+The problem is that empty types suspend to a two-element set. This is easily
+fixed by adjusting the truncation level, and we do have that
+`Σ (trunc-Prop X) = trunc-Set (Σ X)`.
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-propositions.lagda.md]: Nice work!

Instead of describing this section by what it is almost, though, you should describe it by what it actually is. I.e.,
```suggestion
### The suspension of the propositional truncation is the set-truncation of the suspension
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 10]
```diff
@@ -644,3 +765,126 @@ module _
...
+### `Σ X` is 0-connected iff `X` is inhabited
+
+Note that `Σ empty ＝ bool` is _not_ `0`-connected.
+
+The forward direction is the subtle one. When `Σ X` is 0-connected, then in
+particular we [merely](foundation.mere-equality.md) have `p ∈ north ＝ south`;
+such identifications are inductively generated by `X`.
+
+```agda
+suspension-is-0-connected-is-inhabited :
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md]: this should be named `is-0-connected-suspension-is-inhabited`. Notice that the conclusion of the lemma states `is-0-connected (suspension...`

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 11]
```diff
@@ -644,3 +765,126 @@ module _
...
+  {l : Level} (X : UU l) → is-inhabited X → is-0-connected (suspension X)
+suspension-is-0-connected-is-inhabited X x =
+  is-connected-succ-suspension-is-connected
+    ( is-neg-one-connected-is-inhabited X x)
+
+is-inhabited-suspension-is-0-connected :
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md]: should be `is-inhabited-is-0-connected-suspension`

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 12]
```diff
@@ -644,3 +765,126 @@ module _
...
+        ( is-contr-is-one-number-of-elements-is-finite p eq))
+  ... | 2 =
+    inr
+      ( is-empty-trunc-suspension-has-two-elements
+        ( map-inv-equiv-has-cardinality-id-number-of-elements-is-finite
+          ( type-trunc-Set (suspension X))
+          ( p)
+          ( 2)
+          ( eq)))
+  ... | succ-ℕ (succ-ℕ (succ-ℕ n)) = ex-falso {! is-upper-bound-finite-enumeration  !}
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md]: Instead of using a `with` abstraction, you should instead define a lemma

```text
  is-decidable-has-count-trunc-set-suspension :
    count (type-trunc-Set (suspension X)) → is-decidable X
```

and then instantiate the present theorem at that lemma to get your result.
